US07057046B2
3-(indole-2-carbonylamino)-3,4-dihydrocarbostyril
The title compound was prepared by the methods of Example 5 using 3-amino-3,4-dihydrocarbostyril hydrochloride in place of (R)-3-amino-3,4-dihydrocarbostyril hydrochloride and indole-2-carboxylic acid in place of 5-chloroindole-2-carboxylic acid. HPLC/MS [M+H]+, 306; [M+Na]+, 328.

reactant | 3-amino-3,4-dihydrocarbostyril hydrochloride | Cl.NC1C(NC2=CC=CC=C2C1)=O
reactant | indole-2-carboxylic acid | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
product | 3-(indole-2-carbonylamino)-3,4-dihydrocarbostyril | N1C(=CC2=CC=CC=C12)C(=O)NC1C(NC2=CC=CC=C2C1)=O | C18H15N3O2
